US08110579B2
11.1. Methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-oxo-1,6-dihydropyridine-3-carboxylate
Stir a solution of 4 g (14.35 mmol) of methyl 5-iodo-6-oxo-1,6-dihydropyridine-3-carboxylate and 6.42 g (18.64 mmol) of 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane in a mixture of 160 mL of dimethoxyethane (DME), 80 mL of EtOH and 120 mL of a saturated aqueous solution of NaHCO3 for 15 minutes under argon, then add 662 mg of Pd(PPh3)4 and heat the reaction mixture for 4 h 30 min at 90° C. After concentration under reduced pressure, distribute the residue obtained in a mixture of 200 mL of DCM and 10 mL of water. Extract the aqueous phase again with 100 mL of DCM, combine the organic phases, dry over MgSO4, filter and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a DCM/methanol gradient from 0 to 2% of methanol. After concentration under reduced pressure, solidify the residue in a 5/95 methanol/ether mixture, then filter and wash with ether. We thus obtain 1.99 g of methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-oxo-1,6-dihydropyridine-3-carboxylate in the form of a beige solid.

reactant | methyl 5-iodo-6-oxo-1,6-dihydropyridine-3-carboxylate | 14.35 mmol, 4 g | IC1=CC(=CNC1=O)C(=O)OC | C7H6INO3
reactant | 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 18.64 mmol, 6.42 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)B1OC(C(O1)(C)C)(C)C | C19H22BClO3
reactant | EtOH | 80 mL | CCO | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethoxyethane | 160 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 662 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-oxo-1,6-dihydropyridine-3-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=CC(=CNC1=O)C(=O)OC | C20H16ClNO4
